US07449467B2
tert-Butyl 5-(trifluoromethyl)-3′,6′-dihydro-3,4′-bipyridine-1′(2′H)-carboxylate
To a solution of tert-butyl 4-hydroxy-4-[5-(trifluoromethyl)pyridin-3-yl]piperidine-1-carboxylate (300 mg, 0.433 mmol) in pyridine (3.00 mL) cooled in an ice bath was added thionyl chloride (0.158 mL, 2.16 mmol). After being stirred at room temperature overnight (16 h), the brown reaction mixture was quenched with ice water and extracted with methylene chloride three times. The combined extracts were dried (MgSO4), filtered, and concentrated. Purification by flash chromatography on silica gel (0-20% B over 35 min. Bottle A=hexanes, Bottle B=EtOAc) provided 65 mg (46%) of desired product as a light yellow oil. LC-MS calculated for C16H19F3N2O2: (M+H) 329; found 329.1.

reactant | tert-butyl 4-hydroxy-4-[5-(trifluoromethyl)pyridin-3-yl]piperidine-1-carboxylate | 0.433 mmol, 300 mg | OC1(CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC=C(C1)C(F)(F)F | C16H21F3N2O3
reactant | thionyl chloride | 2.16 mmol, 0.158 mL | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 3.00 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 5-(trifluoromethyl)-3′,6′-dihydro-3,4′-bipyridine-1′(2′H)-carboxylate | 65 mg, 46% | FC(C=1C=C(C=NC1)C=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H19F3N2O2
